US06262044B1
To a mixture of N,N-dimethylformamide (1.6 ml) and acetonitrile (5 ml) cooled to −20° C. was added dropwise a mixture of oxalyl chloride (0.8 g, 6.31 mmol) in acetonitrile (1 ml). The resulting mixture was stirred for 15 min. and tetrazole-5-carboxylic acid dipotassium salt (1 g, 5.25 mmol, prepared as described in J. Med. Chem. 29, 538-549 (1986) ) was added and the resulting mixture was stirred for an additional 20 min. To the mixture was added dropwise a solution of 2-amino-4,5-dihydro-7H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (1.3 g, 5.25 mmol), pyridine (2.2 ml) and acetonitrile (2.5 ml) during 10 min. The reaction mixture was allowed to reach room temperature where after it was heated at reflux temperature for 0.5 h. The cooled reaction mixture was poured into water (100 ml) and pH was adjusted to 1 by addition of concentrated hydrochloric acid. The precipitate was filtered off, washed with heptane and dried in vacuo at 50° C. for 18 h affording 1.3 g (70%) of 2-((1H-tetrazole-5-carbonyl)-amino)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as a solid.

reactant | oxalyl chloride | 6.31 mmol, 0.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrazole-5-carboxylic acid dipotassium salt | 5.25 mmol, 1 g | [K+].[K+].N1N=NN=C1C(=O)[O-].N1N=NN=C1C(=O)[O-]
reactant | 2-amino-4,5-dihydro-7H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 5.25 mmol, 1.3 g | C(C)(C)(C)OC(=O)C1=C(SC=2COCCC21)N | C12H17NO3S
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
solvent | pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 1.6 ml | CN(C=O)C | C3H7NO
product | 2-((1H-tetrazole-5-carbonyl)-amino)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 1.3 g, 70% | C(C)(C)(C)OC(=O)C1=C(SC=2COCCC21)NC(=O)C2=NN=NN2 | C14H17N5O4S
